US04477454
A mixture of 10 g of 2-(4-acetoxy-2-methoxyphenyl)-1,3,4,7-tetraazaindene (obtainable by condensing IIa with 4-acetoxy-2-methoxybenzoic acid), 100 ml of methanol and 100 ml of a 2N aqueous NaOH solution is left to stand at 20° for 16 hours. The customary working up gives 2-(4-hydroxy-2-methoxyphenyl)-1,3,4,7-tetraazaindene.

reactant | 2-(4-acetoxy-2-methoxyphenyl)-1,3,4,7-tetraazaindene | 10 g | C(C)(=O)OC1=CC(=C(C=C1)C=1NC2=NC=CN=C2N1)OC | C14H12N4O3
reactant | NaOH | 2N | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-hydroxy-2-methoxyphenyl)-1,3,4,7-tetraazaindene | OC1=CC(=C(C=C1)C=1NC2=NC=CN=C2N1)OC | C12H10N4O2
